US04539413
The novel process involves reaction of a 2-hydroxymethyl-1,4-benzodioxan with epichlorohydrin to produce an intermediate glycidyl ether, which is then reacted with a primary amine to produce the final 3-amino-1-[(1,4-benzodioxan)-2-yl-methoxy]-2-propanol or an acid addition salt thereof.

reactant | 2-hydroxymethyl-1,4-benzodioxan | OCC1COC2=C(O1)C=CC=C2 | C9H10O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
